US04665174
Into the same flask as used in Example 1, thiophenol (10 g), triethylamine (2 g), quinine (0.2 g), 2-n-pentyl-3-hydroxy-4-cyclopentenone (16.8 g) and toluene (30 g) were charged, and the mixture was stirred under a nitrogen stream at a temperature of 40° to 70° C. for 5 hours. After completion of the reaction, the mixture was treated and purified in the same manner as in Example 50 to obtain 2-n-pentyl-4-phenylthio-2-cyclopentenone (24.7 g). Yield, 95%. nD20 1.5706.

reactant | thiophenol | 10 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | 2-n-pentyl-3-hydroxy-4-cyclopentenone | 16.8 g | C(CCCC)C1C(C=CC1O)=O | C10H16O2
catalyst | quinine | 0.2 g | COC=1C=CC2=C(C1)C(=CC=N2)[C@H]([C@@H]3C[C@@H]4CCN3C[C@@H]4C=C)O | C20H24N2O2
solvent | toluene | 30 g | C1(=CC=CC=C1)C | C7H8
product | 2-n-pentyl-4-phenylthio-2-cyclopentenone | 24.7 g | C(CCCC)C=1C(CC(C1)SC1=CC=CC=C1)=O | C16H20OS
